US07585880B2
ethyl 3-[2-fluoro-4-({4-[((2-phenylethyl){4-[4-(trifluoromethyl)phenyl]-1,3-thiazol-2-yl}amino)methyl]-benzyl}oxy)phenyl]propanoate
To a solution of N-(2-phenylethyl)-4-[4-(trifluoromethyl)phenyl]-1,3-thiazole-2-amine (500 mg, 1.43 mmol) in N,N-dimethylformamide (5 mL) was added sodium hydride (50 mg, in oil, 1.3 mmol) at room temperature, and the mixture was stirred at room temperature for 1 hr. Ethyl 3-(4-{[4-(chloromethyl)benzyl]oxy}-2-fluorophenyl)propanoate (350 mg, 1.0 mmol) was added, and the mixture was further stirred at room temperature for 2 hr. The reaction mixture was poured into 1N hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was concentrated. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:19-3:2 in volume ratio) to give the title compound as a yellow oil.

reactant | N-(2-phenylethyl)-4-[4-(trifluoromethyl)phenyl]-1,3-thiazole-2-amine | 1.43 mmol, 500 mg | C1(=CC=CC=C1)CCNC=1SC=C(N1)C1=CC=C(C=C1)C(F)(F)F | C18H15F3N2S
reactant | sodium hydride | 1.3 mmol, 50 mg | [H-].[Na+]
reactant | Ethyl 3-(4-{[4-(chloromethyl)benzyl]oxy}-2-fluorophenyl)propanoate | 1.0 mmol, 350 mg | ClCC1=CC=C(COC2=CC(=C(C=C2)CCC(=O)OCC)F)C=C1 | C19H20ClFO3
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | ethyl 3-[2-fluoro-4-({4-[((2-phenylethyl){4-[4-(trifluoromethyl)phenyl]-1,3-thiazol-2-yl}amino)methyl]-benzyl}oxy)phenyl]propanoate | FC1=C(C=CC(=C1)OCC1=CC=C(C=C1)CN(C=1SC=C(N1)C1=CC=C(C=C1)C(F)(F)F)CCC1=CC=CC=C1)CCC(=O)OCC | C37H34F4N2O3S
